US05107026
Preparation of 3-[(2-Fluoro-5-(trifluoromethyl)phenyl]ethynyl]aniline
A multinecked flash as described in Example 1 was charged with 4.93 g (0.020 mol) of 3-bromo-4-fluorobenzotrifluoride, 75 ml of dried, degassed triethylamine, 2.34 g (0.020 mol) of 3-aminophenylacetylene, 0.06 g (0.08 mmol) of bis(triphenylphosphine) palladium II chloride, 0.118 g (0.45 mmol) of triphenylphosphine, and 0.06 g (0.31 mmol) of cuprous iodide. The reaction mixture was heated at 70° C. for 40 hours at which point gas chromatography showed the reaction to be complete. The product mixture was cooled to room temperature and diluted with 75 ml of ether. Filtration of the insoluble hydrobromide salt followed by concentration of the filtrate gave the crude product (5.5 g, 89%) as an orange liquid. Short path distillation of the crude product under reduced pressure gave 4.05 g (0.014 mol, 70% yield) of the product as a yellow solid.

reactant | 3-bromo-4-fluorobenzotrifluoride | 0.020 mol, 4.93 g | BrC=1C=C(C=CC1F)C(F)(F)F | C7H3BrF4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-aminophenylacetylene | 0.020 mol, 2.34 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | ether | 75 ml | CCOCC | C4H10O
catalyst | bis(triphenylphosphine) palladium | 0.08 mmol, 0.06 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | triphenylphosphine | 0.45 mmol, 0.118 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-[(2-Fluoro-5-(trifluoromethyl)phenyl]ethynyl]aniline | 0.014 mol, 4.05 g, 70% yield | FC1=C(C=C(C=C1)C(F)(F)F)C#CC=1C=C(N)C=CC1 | C15H9F4N
